US04004011
6-methyl-8-(3-pyridylamino)ergoline
17.8 g of 6-methyl-8-oxo-ergoline hydrogen maleate and 23.5 g of 3-aminopyridine in 500 cc of methanol are hydrogenated with the addition of 12 g of 10% palladium on active charcoal under normal conditions. After the hydrogen take up is complete (approx. 120 hours), the catalyst is filtered off, the filtrate is concentrated in a vacuum at a water bath temperature of 60°, and the resulting residue is purified and separated by chromatography on a 30-fold quantity of silica gel with methylene chloride and the addition of increasing amounts of methanol.

reactant | 6-methyl-8-oxo-ergoline hydrogen maleate | 17.8 g | C(\C=C/C(=O)O)(=O)O.CN1CC(C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)=O
reactant | 3-aminopyridine | 23.5 g | NC=1C=NC=CC1 | C5H6N2
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 cc | CO | CH4O
catalyst | palladium | 12 g | [Pd] | Pd
product | 6-methyl-8-(3-pyridylamino)ergoline | CN1CC(C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)NC=3C=NC=CC3 | C20H22N4
